US08895588B2
1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazole-3-carbaldehyde
{1-(2-Fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}methanol (320 mg) was dissolved in toluene (5 mL), manganese dioxide (802 mg) was added, and the mixture was stirred at 90° C. for 4 hr. The reaction mixture was allowed to cool to room temperature, and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a colorless oil (yield 266 mg, yield 83%).

reactant | {1-(2-Fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazol-3-yl}methanol | 320 mg | FC1=NC=CC=C1N1N=C(C=C1S(=O)(=O)C1=CC(=CC=C1)C)CO | C16H14FN3O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 802 mg | [O-2].[O-2].[Mn+4]
product | 1-(2-fluoropyridin-3-yl)-5-[(3-methylphenyl)sulfonyl]-1H-pyrazole-3-carbaldehyde | yield 266 mg, yield 83% | FC1=NC=CC=C1N1N=C(C=C1S(=O)(=O)C1=CC(=CC=C1)C)C=O | C16H12FN3O3S
